US07399812B2
Preparation of 2,2-dimethyl-1-methoxy-3-[(dimethylphenylsilyl)oxy]-propane
According to the procedure as described in Example 1,2,2-dimethyl-1-methoxy-3-[(dimethylphenylsilyl)oxy]propane was prepared from intermediate 2,2-dimethyl-3-methoxy-1-propanol and reagent dimethylphenylsilyl chloride.

reactant | 2,2-dimethyl-3-methoxy-1-propanol | CC(CO)(COC)C | C6H14O2
reactant | dimethylphenylsilyl chloride | C[Si](C1=CC=CC=C1)(C)Cl | C8H11ClSi
product | 2,2-dimethyl-1-methoxy-3-[(dimethylphenylsilyl)oxy]-propane | CC(COC)(CO[Si](C1=CC=CC=C1)(C)C)C | C14H24O2Si
